US09085555B2
(1R,3S,5S)-2-[2-(3-Acetyl-indol-1-yl)-acetyl]-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide
The title compound was prepared in 2 steps according to the procedure described for the preparation of Example 610 (1R,3S,5S)-2-[2-(3-acetyl-pyrrolo[2,3-b]pyridin-1-yl)-acetyl]-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide using (3-acetyl-indol-1-yl)-acetic acid instead of (3-acetyl-pyrrolo[2,3-b]pyridin-1-yl)-acetic acid. White powder. TLC, Rf (EtOAc)=0.05; MS (LC/MS): 498/500 [M+H]+, 520/522 [M+Na]+; tR (HPLC conditions f): 1.84 min.

reactant | (1R,3S,5S)-2-[2-(3-acetyl-pyrrolo[2,3-b]pyridin-1-yl)-acetyl]-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@]3(C2)CO)C(CN2C=C(C=3C2=NC=CC3)C(C)=O)=O)C=CC1)F | C25H24ClFN4O4
reactant | (3-acetyl-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=CC=C12)CC(=O)O | C12H11NO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1R,3S,5S)-2-[2-(3-Acetyl-indol-1-yl)-acetyl]-5-hydroxymethyl-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N([C@@H]3C[C@@]3(C2)CO)C(CN2C=C(C3=CC=CC=C23)C(C)=O)=O)C=CC1)F | C26H25ClFN3O4
